US04093811
A mixture of 4-isopropoxymethyl-2-(p-methoxyphenyl)-5-methylimidazole hydrochloride (48.9 g, 0.164 mole) in 500 ml of water is stirred and refluxed. To this mixture is added 50 ml of concentrated hydrochloric acid and stirring and refluxing are continued for 4 hrs. The mixture is then chilled and filtered to give about 39.5 g (94%) of 4-hydroxymethyl-2-(p-methoxyphenyl)-5-methylimidazole hydrochloride which is recrystallized from isopropyl alcohol, m.p. 146°-148° C (dec.). Treatment with alkali (e.g., NaOH) affords the corresponding base form.

reactant | 4-isopropoxymethyl-2-(p-methoxyphenyl)-5-methylimidazole hydrochloride | 0.164 mole, 48.9 g | Cl.C(C)(C)OCC=1N=C(NC1C)C1=CC=C(C=C1)OC
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 4-hydroxymethyl-2-(p-methoxyphenyl)-5-methylimidazole hydrochloride | about 39.5 g, 94% | Cl.OCC=1N=C(NC1C)C1=CC=C(C=C1)OC | InChI=1S/C12H14N2O2.ClH/c1-8-11(7-15)14-12(13-8)9-3-5-10(16-2)6-4-9;/h3-6,15H,7H2,1-2H3,(H,13,14);1H
